US06720320B2
(1) 3-benzyl-3,5-dihydro-5-(2′-methoxybenzylidene)-2-methylimidazol-4-one
4-(2′-Methoxybenzylidene)-2-methyl-4H-oxazol-5-one (5 g) was dissolved in acetic acid (50 ml) and benzylamine (2.68 g) and sodium acetate (2 g) were added. The mixture was heated at 100° C. for 2 hr, poured into ice-water, neutralized with potassium carbonate and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (1.38 g) as yellow crystals.

reactant | 4-(2′-Methoxybenzylidene)-2-methyl-4H-oxazol-5-one | 5 g | COC1=C(C=C2N=C(OC2=O)C)C=CC=C1 | C12H11NO3
reactant | benzylamine | 2.68 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium acetate | 2 g | C(C)(=O)[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-benzyl-3,5-dihydro-5-(2′-methoxybenzylidene)-2-methylimidazol-4-one | 1.38 g | C(C1=CC=CC=C1)N1C(=NC(C1=O)=CC1=C(C=CC=C1)OC)C | C19H18N2O2
